US04616014
A mixture of 2-hydroxyimino-4'-nitropropiophenone thiosemicarbazone (15.8 g) and potassium carbonate (17.09 g) in water (145 ml) was refluxed for 30 minutes with stirring. After cooling, the mixture was filtered by suction and then methyl iodide (10.37 g) was added dropwise to the filtrate at room temperature with stirring. The resulting precipitates were collected by filtration, washed with water, and dried. The residue was purified by column chromatography on silica gel (100 g) with methylene chloride as an eluent to give yellow powder of 5-methyl-3-methylthio-6-(4-nitrophenyl)-1,2,4-triazine (6.49 g).

reactant | 2-hydroxyimino-4'-nitropropiophenone thiosemicarbazone | 15.8 g | ON=C(C(C1=CC=C(C=C1)[N+](=O)[O-])=NNC(=S)N)C | C10H11N5O3S
reactant | potassium carbonate | 17.09 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 145 ml | O | H2O
product | 5-methyl-3-methylthio-6-(4-nitrophenyl)-1,2,4-triazine | 6.49 g | CC=1N=C(N=NC1C1=CC=C(C=C1)[N+](=O)[O-])SC | C11H10N4O2S
